US04705802
6-[5-(4-Chlorobenzyl)-thien-2-yl]-hex-5-enoic acid.
This compound is prepared analogously to Example 7b from: 6.3 g of sodium hydride (=7.8 g of 80% strength mineral oil suspension) in 180 ml of dimethylsulphoxide, 57.9 g of 4-hydroxycarbonylbutyl-triphenylphosphonium bromide in 180 ml of dimethylsulphoxide and 25.0 g of 5-(4-chlorobenzyl)-thiophene-2-aldehyde in 20 ml of dimethylsulphoxide.

reactant | sodium hydride | 6.3 g | [H-].[Na+]
reactant | 4-hydroxycarbonylbutyl-triphenylphosphonium bromide | 57.9 g | [Br-].OC(=O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-(4-chlorobenzyl)-thiophene-2-aldehyde | 25.0 g | ClC1=CC=C(CC2=CC=C(S2)C=O)C=C1 | C12H9ClOS
solvent | dimethylsulphoxide | 180 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 180 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 6-[5-(4-Chlorobenzyl)-thien-2-yl]-hex-5-enoic acid | ClC1=CC=C(CC2=CC=C(S2)C=CCCCC(=O)O)C=C1 | C17H17ClO2S
